US04290961
1 mg (2×10-5 moles) of [Ir(3,4,7,8 Me4 phen)COD]Cl oxidized with air in 50 ml of isopropanol-H2O (1%) were treated with 0.56 ml of an aqueous solution of KOH (100 mg in 50 ml of H2O) and successively heated at reflux for 1 hour. 5 g of 4-terbutyl-cyclohexanone were then added and it was heated at reflux for 30 minutes. The gaschromatographic analysis revealed a conversion of 100% and a trans/cis ratio=22.1 (95.5% of trans isomer). By addition of water and vacuum removal of the isopropanol and of the acetone which had formed, the reaction product 4-terbutyl-cyclohexanol was isolated. Ratios: [KOH]/[cat.]=1; [substratum]/[cat.]=1630. This example points out the possibility of obtaining, with a ratio KOH/cat.=1, the reduction of 4-terbutyl-cyclohexanone with a high stereoselectivity. In fact, when repeating the test under the same operative conditions as employed before, higher amounts of KOH were used, precisely 5.6 ml and 11.2 ml of aqueous solution, corresponding to a KOH/cat. ratio equal to 5 and 10, respectively. Equal conversions of 100% were obtained, while the trans/cis ratios decreased to 4.5 and 4, respectively.

reactant | KOH | 50 ml, 100 mg | [OH-].[K+]
reactant | 4-terbutyl-cyclohexanone | 5 g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | water | O | H2O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol H2O | 50 ml | C(C)(C)O.O
solvent | acetone | CC(=O)C | C3H6O
product | 4-terbutyl-cyclohexanol | C(C)(C)(C)C1CCC(CC1)O | C10H20O
